US09062070B2
2,6-Difluoro-3-hydroxybenzonitrile (3.50 g, 22.6 mmol) was dissolved in DCM (50 mL), cooled to 0° C., and TEA was added (7.87 mL, 56.4 mmol) followed by triflic anhydride (7.63 mL, 45.1 mmol). The reaction mixture was stirred for 1 hour, then was poured into ice water and extracted with more DCM. The organic layer was separated and washed with sat'd aqueous NaHCO3, then brine, then was dried over MgSO4, filtered, and evaporated to dryness. The crude material was purified by MPLC chromatography through a 330 g Redi-sep column eluting with 0-80% EtOAc/hexane to yield 3-cyano-2,4-difluorophenyl trifluoromethanesulfonate.

reactant | 2,6-Difluoro-3-hydroxybenzonitrile | 22.6 mmol, 3.50 g | FC1=C(C#N)C(=CC=C1O)F | C7H3F2NO
reactant | triflic anhydride | 45.1 mmol, 7.63 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-2,4-difluorophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C(=C(C=C1)F)C#N)F)(F)F | C8H2F5NO3S
